US05700748
A solution of 98% indene (364 mmoles) in 300 ml of THF was cooled to -78° C. under argon. An equimolar amount of n-butyllithium was added to the solution. The resulting mixture was allowed to warm to room temperature. It was then charged to an equimolar amount of 95% cinnamyl chloride (58.45 g) in 100 ml of THF at -30° C. The mixture was then allowed to warm to room temperature and react for one hour to form cinnamyl indene. The cinnamyl indene was concentrated down to a residue under strong vacuum, and then washed and concentrated twice with 100 ml of hexane. The residue was washed a third time with 100 ml of warm hexane and filtered while hot. The filtrate was again concentrated down to a residue under vacuum. The cinnamyl indene filtrate melted at 55°-69° C. Recovery yield was 62%.

reactant | indene | 364 mmoles | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyllithium | C(CCC)[Li]
reactant | cinnamyl chloride | 58.45 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | cinnamyl indene | yield was 62% | C(C=CC1=CC=CC=C1)C1C=CC2=CC=CC=C12 | C18H16
